US06787543B2
To a solution of (4R,9aR)-8-acetyl-4-benzhydryl-2-(2-methoxybenzyl)octahydro-2H-pyrazino[1,2-a]pyrazine (5.9 g) in dichloroethane (60 ml) was added 1-chloroethyl chloroformate (2.3 ml) at room temperature, and the reaction mixture was heated at 70° C. for 30 minutes with stirring. After removal of solvent by evaporation, to the resulting residue was added methanol (45 ml), and the solution was refluxed for 40 minutes. After being concentrated, the residue was triturated with diisopropyl ether. The resulting precipitate was collected by filtration and dried under, reduced pressure for 5 hours at 40° C. to give (4R,9aR)-8-acetyl-4-benzhydryloctahydro-2H-pyrazino[1,2-a]pyrazine dihydrochloride (3.1 g) as colorless foam.

reactant | (4R,9aR)-8-acetyl-4-benzhydryl-2-(2-methoxybenzyl)octahydro-2H-pyrazino[1,2-a]pyrazine | 5.9 g | C(C)(=O)N1C[C@@H]2N([C@@H](CN(C2)CC2=C(C=CC=C2)OC)C(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C30H35N3O2
reactant | 1-chloroethyl chloroformate | 2.3 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 60 ml | ClC(C)Cl | C2H4Cl2
product | (4R,9aR)-8-acetyl-4-benzhydryloctahydro-2H-pyrazino[1,2-a]pyrazine dihydrochloride | 3.1 g | Cl.Cl.C(C)(=O)N1C[C@@H]2N([C@@H](CNC2)C(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | InChI=1S/C22H27N3O.2ClH/c1-17(26)24-12-13-25-20(16-24)14-23-15-21(25)22(18-8-4-2-5-9-18)19-10-6-3-7-11-19;;/h2-11,20-23H,12-16H2,1H3;2*1H/t20-,21+;;/m1../s1
